US04670593
N-Isopropyldichloroacetamide
Dichloroacetyl chloride, 442.5 grams (3.0 mole), was dissolved in a flask containing 900 milliliters of methylene chloride and the solution cooled to 0° C. in an ice/acetone bath. 354 grams (5.98 mole) of isopropyl amine was added dropwise with vigorous stirring and the addition rate was adjusted to maintain the reaction temperature below 5° C. When the addition was complete, the mixture was allowed to stir at ambient temperature for one hour then washed with 2×500 milliliters water, the organic phase separated, dried over magnesium sulfate and stripped of solvent at reduced pressure giving 499 grams (98% yield) of the desired product, a white solid, m.p. 45°-48° C.

reactant | Dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | isopropyl amine | 5.98 mole, 354 grams | C(C)(C)N | C3H9N
solvent | methylene chloride | 900 milliliters | C(Cl)Cl | CH2Cl2
product | N-Isopropyldichloroacetamide | 499 grams, 98% yield | C(C)(C)NC(C(Cl)Cl)=O | C5H9Cl2NO
